US05783572
A solution of diisobutylaluminium hydride (1M in dichloromethane, 9 mL, 9 mmol) was added dropwise to a stirred suspension of 6,7-dichloro-2,3-dimethoxy-5-[(4-methoxycarbonyl-1,2,3-triazol-1-yl)methyl]quinoxaline (1.087 g, 2.73 mmol) under nitrogen at -78° C. After 2.25 hours, methanol (5 mL) was added, followed by saturated aqueous ammonium chloride (25 mL) 5 minutes later. The mixture was allowed to warm to room temperature, filtered through Arbocel filter aid, washing the filter cake with dichloromethane. The organic solution was dried (MgSO4) and concentrated under reduced pressure to give 6,7-dichloro-2,3-dimethoxy-5[(4-formyl-1,2,3-triazol-1-yl)methyl]quinoxaline (981 mg, 98%), as a white solid.

reactant | diisobutylaluminium hydride | 9 mmol, 1M, 9 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 6,7-dichloro-2,3-dimethoxy-5-[(4-methoxycarbonyl-1,2,3-triazol-1-yl)methyl]quinoxaline | 2.73 mmol, 1.087 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=NC(=C1)C(=O)OC | C15H13Cl2N5O4
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | 6,7-dichloro-2,3-dimethoxy-5[(4-formyl-1,2,3-triazol-1-yl)methyl]quinoxaline | 981 mg, 98% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)CN1N=NC(=C1)C=O | C14H11Cl2N5O3
